US06265135B1
In 100 ml of methanol, 25 g of pentafluorobenzenesulfonyl chloride was dissolved under ice cooling, and 100 g of a 25% aqueous solution of tetramethylammonium hydroxide was slowly added thereto. Stirring at room temperature for 3 hours provided a solution of tetramethylammonium pentafluorobenzenesulfonate. This solution was used for salt exchange with a sulfonium salt and an iodonium salt.

reactant | pentafluorobenzenesulfonyl chloride | 25 g | FC1=C(C(=C(C(=C1S(=O)(=O)Cl)F)F)F)F | C6ClF5O2S
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
solvent | methanol | 100 ml | CO | CH4O
product | tetramethylammonium pentafluorobenzenesulfonate | FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F.C[N+](C)(C)C | InChI=1S/C6HF5O3S.C4H12N/c7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9;1-5(2,3)4/h(H,12,13,14);1-4H3/q;+1/p-1
